US04997979
The temperature was raised to 75° under 19 bar of CO, and the reaction was allowed to take place for 45 minutes. The yield of Ca[Co(CO)4 ]was estimated at about 80%. About 8 mmol of Co-1 were thus in solution. Then, 245 g (1.937 moles) of benzyl chloride were introduced under pressure in the course of 20 minutes. The Co-1 /benzyl chloride molar ratio was 4×10-3 :1. After 5 hours, a phenylpyruvic acid selectivity of 75% was obtained. The reaction mixture was treated in the same manner as described above in part 1 of this example. 3. Treatment of the filtrate of part 2 of this example. 1 kg of filtration juice of composition:

reactant | Co-1 | 8 mmol | C1=CC(=C[N+](=C1)[C@H]2[C@@H]([C@@H]([C@H](O2)COP(=O)([O-])OP(=O)(O)OC[C@@H]3[C@H]([C@H]([C@@H](O3)N4C=NC5=C4N=CN=C5N)O)O)O)O)C(=O)N | C21H27N7O14P2
reactant | benzyl chloride | 1.937 moles, 245 g | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | Co-1 benzyl chloride | C1=CC(=C[N+](=C1)[C@H]2[C@@H]([C@@H]([C@H](O2)COP(=O)([O-])OP(=O)(O)OC[C@@H]3[C@H]([C@H]([C@@H](O3)N4C=NC5=C4N=CN=C5N)O)O)O)O)C(=O)N.C(C1=CC=CC=C1)Cl
product | phenylpyruvic acid | C1(=CC=CC=C1)CC(C(=O)O)=O | C9H8O3
